US07612114B2
4-Benzyloxybenzylamine
To a solution of 4-benzyloxybenzyl alcohol (3.1 g) in toluene (40 ml) were sequentially added diphenylphosphoryl azide (4.8 g) and 1,8-diazabicyclo[5.4.0]undec-7-ene (2.6 g), and the solution was stirred for 25 hours at room temperature. The solution was extracted with ethyl acetate, then sequentially washed with water and brine, dried over anhydrous magnesium sulfate, and then the solvent was evaporated in vacuo. Obtained by purifying the residue by silica gel column chromatography (hexane-ethyl acetate system), to a solution of the resulting 1-azidomethyl-4-benzyloxybenzene (3.0 g) in tetrahydrofuran (40 ml) were sequentially added water (3 ml) and triethylphosphine (2.0 ml), and the solution was stirred for 1 hour and 10 minutes at room temperature. The reaction solution was concentrated in vacuo, extracted with ethyl acetate, then sequentially washed with water and brine, dried over anhydrous magnesium sulfate, and then the solvent was evaporated in vacuo. The residue was purified by NH silica gel column chromatography (hexane-ethyl acetate system) to provide the title compound (2.5 g).

reactant | 4-benzyloxybenzyl alcohol | 3.1 g | C(C1=CC=CC=C1)OC1=CC=C(CO)C=C1 | C14H14O2
reactant | diphenylphosphoryl azide | 4.8 g | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | 1,8-diazabicyclo[5.4.0]undec-7-ene | 2.6 g | N12CCCCCC2=NCCC1 | C9H16N2
solvent | toluene | 40 ml | C1(=CC=CC=C1)C | C7H8
product | 4-Benzyloxybenzylamine | 2.5 g | C(C1=CC=CC=C1)OC1=CC=C(CN)C=C1 | C14H15NO
